US06207678B1
2,3-Dihydrobenzo[b]furan-7-oic acid (3 g) (see Preparation 32) was suspended in anhydrous dichloromethane (30 ml) and oxalyl chloride (3.5 g) added, followed by addition of dimethylformamide (3 drops). The mixture was stirred at room temperature for 2.5 hours, the solvent then removed under reduced pressure, the resulting residue dissolved in dichloromethane and the solvent removed under reduced pressure. The residue was again dissolved in dichloromethane and the solvent removed under reduced pressure to give 2,3-dihydrobenzo[b]furan-7-oyl chloride as a pink solid (3.3 g).

reactant | 2,3-Dihydrobenzo[b]furan-7-oic acid | 3 g | O1C2=C(CC1)C=CC=C2C(=O)O | C9H8O3
reactant | oxalyl chloride | 3.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 2,3-dihydrobenzo[b]furan-7-oyl chloride | 3.3 g | O1C2=C(CC1)C=CC=C2C(=O)Cl | C9H7ClO2
